US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran (47 mg, 0.08 mmol) was dissolved in 1,4-dioxane (1 ml), methanol (1 ml) and water (0.25 ml). NaIO4 (20 mg, 0.093 mmol) was added dropwise thereto, and the reaction mixture was stirred for 12 hours at room temperature and then filtered. The filtrate was concentrated and the residue was subjected to column chromatography (n-hexane:ethyl acetate=3:1→1:1) to obtain 35 mg (yield: 73%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran | 0.08 mmol, 47 mg | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C30H39F5O3S
reactant | methanol | 1 ml | CO | CH4O
reactant | water | 0.25 ml | O | H2O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]-2,3-dihydro-4H-benzopyran | 35 mg, yield: 73% | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCS(=O)CCCC(C(F)(F)F)(F)F)C=C1 | C30H39F5O4S
